US07906660B2
Palladium-on-charcoal (5%, 0.07 g) was added to a suspension of 4′,7,8-triacetoxyisoflavone (0.5 g, 1.3 mmol) in methanol (100 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 55 h. The catalyst was removed by filtration through Celite and the filtrate was evaporated in vacuo to yield 4′,7,8-triacetoxyisoflavan-4-ol in quantitative yield. A nuclear magnetic resonance spectrum revealed the product to be a clean 1:1 mixture of cis- and trans-4′,7,8-triacetoxyisoflavan-4-ol. Mass spectrum: m/z 400 (M, 5%); 358 (12); 298 (12); 256 (24); 196 (20); 162 (70); 154 (100); 120 (80).

reactant | 4′,7,8-triacetoxyisoflavone | 1.3 mmol, 0.5 g | C(C)(=O)OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)OC(C)=O)C=C1 | C21H16O8
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium-on-charcoal | 0.07 g | [Pd] | Pd
product | 4′,7,8-triacetoxyisoflavan-4-ol | quantitative yield | C(C)(=O)OC1=CC=C(C2COC3=C(C(=CC=C3C2O)OC(C)=O)OC(C)=O)C=C1 | C21H20O8
